US04409242
In a flask are placed 92.5 g (1 mol) of epichlorohydrin, 33.5 g (0.25 mol) of o-allylphenol and 0.3 ml of pyridine is added. The mixture is taken to 80° C. in about 1 hour then the temperature is raised to 90° C. and maintained for about 6 hours until the phenol has disappeared completely. The mixture is then cooled and the excess of epichlorohydrin evaporated. The remaining oil is taken up in 100 ml chloroform and 50 ml of HCl (d415 -1.19) are slowly added. The organic phase is then washed two to three times in water then dried over Na2SO4. After evaporation of the chloroform, 56.6 g (yield: about 100%) are obtained of 1-(o-allylphenoxy)-3-chloro-2-propanol in the form of an oil, dark brown in colour.

reactant | epichlorohydrin | 1 mol, 92.5 g | C(Cl)C1CO1 | C3H5ClO
reactant | o-allylphenol | 0.25 mol, 33.5 g | C(C=C)C1=C(C=CC=C1)O | C9H10O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | pyridine | 0.3 ml | N1=CC=CC=C1 | C5H5N
product | 1-(o-allylphenoxy)-3-chloro-2-propanol | yield: about 100% | C(C=C)C1=C(OCC(CCl)O)C=CC=C1 | C12H15ClO2
